US08536160B2
(Z) 3-[3-(S)-Pyrrolidinyl]oxyimino-6-(E)-hydroxyiminoandrost-4-ene-17-one (I-dw)
The title compound I-dw was obtained following the procedure described in Example 100 and starting from 6-(E)-hydroxyiminoandrost-4-ene-3,17-dione (II-bw, Prepn. 63, 200 mg) and 3-(S)-pyrrolidinyloxyamine dihydrochloride (III-d, Prepn. 4) (110 mg). The crude product (1/1 ratio of the E/Z isomers) was purified by flash chromatography (SiO2, CH2Cl2/MeOH/26% NH4OH 90/10/1). The less polar fractions were evaporated to dryness to give the title compound I-dw in 65% yield. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 10.72 (1H, bs), 6.16 (1H, bs), 4.69 (1H, m), 3.36-3.10 (7H, m), 2.60-1.10 (16H, m), 0.96 (3H, s), 0.83 (3H, s).

reactant | 6-(E)-hydroxyiminoandrost-4-ene-3,17-dione | 200 mg | O\N=C\1/C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O | C19H25NO3
reactant | 3-(S)-pyrrolidinyloxyamine dihydrochloride | 110 mg | Cl.Cl.N1C[C@H](CC1)ON
product | 3-[3-(S)-Pyrrolidinyl]oxyimino-6-(E)-hydroxyiminoandrost-4-ene-17-one | 65% yield | N1C[C@H](CC1)ON=C1C=C2/C(/C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=N/O | C23H33N3O3
